US04111936
6-[2-(2-t-Butylamino-3-hydroxypropoxy)-5-methylphenyl]-3(2H)-pyridazinethione was treated with hydrazine hydrate in a similar manner to the procedure described in Example 2 (vi) to give 3-[2-(2-t-butylamino-3-hydroxypropoxy)-5-methylphenyl]-6-hydrazinopyridazine as an oil which was isolated as the hemisulphate, m.p. 172°-178° C. (Found: C, 54.6; H, 7.1; N, 17.5; S, 3.9% C18H27N5O2. 0.5H2SO4 requires: C, 54.8; H, 7.2; N, 17.8; S, 4.1%

reactant | 6-[2-(2-t-Butylamino-3-hydroxypropoxy)-5-methylphenyl]-3(2H)-pyridazinethione | C(C)(C)(C)NC(COC1=C(C=C(C=C1)C)C=1C=CC(NN1)=S)CO | C18H25N3O2S
reactant | hydrazine hydrate | O.NN
product | 3-[2-(2-t-butylamino-3-hydroxypropoxy)-5-methylphenyl]-6-hydrazinopyridazine | C(C)(C)(C)NC(COC1=C(C=C(C=C1)C)C=1N=NC(=CC1)NN)CO | C18H27N5O2
